Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 8cm left renal mass
 
Major Surgical or Invasive Procedure:
1. Laparoscopic left radical nephrectomy.
2. Laparoscopic left retroperitoneal lymph node dissection
    (para-aortic and hilar nodes, complete separate procedure).

 
History of Present Illness:
___ gentleman with a history of severe CHF,  
 ischemic heart disease, type 2 diabetes, with a reported EF of  

about ___, and an 8cm left renal mass 

 
Past Medical History:
 1. CAD status post three-vessel CABG in ___ after a stress  
 test.  
 2. Systolic CHF with ejection fraction 30%  
 3. Hypertension.  
 4. Non-insulin-dependent diabetes.  
 5. Morbid obesity.  
 6. GERD.  
 7. Obstructive sleep apnea, on CPAP.  
 8. Episodic atrial fibrillation, status post cardioversion one  

 year ago.  
 9. Renal mass, c/f renal cell carcinoma
 SURGICAL HISTORY:  
 1. CABG x 3, ___.  
 2. Elective cardioversion, ___ for AFib.  
 3. Right rotator cuff.  

 
Social History:
___
Family History:
Mother had myasthenia ___, deceased. Father had CAD, 
deceased.
 
Physical Exam:
WdWn, NAD, AVSS
Interactive, cooperative
Abdomen soft, appropriately tender along incisions
Incisions otherwise c/d/i
Extremities w/out edema or pitting and there is no reported calf 
pain to deep palpation

 
Pertinent Results:
___ 08:05AM BLOOD WBC-8.3 RBC-3.01* Hgb-8.9* Hct-27.3* 
MCV-91 MCH-29.6 MCHC-32.6 RDW-18.3* RDWSD-60.4* Plt ___
___ 06:50AM BLOOD WBC-8.3 RBC-2.86* Hgb-8.5* Hct-26.3* 
MCV-92 MCH-29.7 MCHC-32.3 RDW-19.1* RDWSD-63.9* Plt ___
___ 07:20AM BLOOD WBC-8.4 RBC-3.01* Hgb-8.8* Hct-28.3* 
MCV-94 MCH-29.2 MCHC-31.1* RDW-19.4* RDWSD-66.2* Plt ___
___ 08:05AM BLOOD Glucose-113* UreaN-25* Creat-2.0* Na-136 
K-3.9 Cl-103 HCO3-23 AnGap-14
___ 06:50AM BLOOD Glucose-113* UreaN-29* Creat-2.3* Na-137 
K-3.8 Cl-104 HCO3-23 AnGap-14
___ 07:20AM BLOOD Glucose-566* UreaN-24* Creat-1.8* Na-140 
K-3.8 Cl-103 HCO3-23 AnGap-18
___ 08:05AM BLOOD Calcium-8.4 Mg-1.8
___ 06:50AM BLOOD Calcium-8.2* Mg-1.8
 
Brief Hospital Course:
Mr. ___ was admitted to Urology after undergoing laparoscopic 
left radical nephrectomy and laparoscopic left retroperitoneal 
lymph node dissection (para-aortic and hilar nodes, performed as 
a separate procedure). No concerning intraoperative events 
occurred; please see dictated operative note for details. The 
patient received perioperative antibiotic prophylaxis and was 
transferred to the floor from the PACU in stable condition. On 
POD0, pain was well controlled on PCA, hydrated for urine output 
>30cc/hour, provided with pneumoboots and incentive spirometry 
for prophylaxis, and ambulated once. He was restarted on 
appropriate home medications and daily his basic metabolic panel 
and complete blood count were checked.  Pain control was 
transitioned from PCA to oral analgesics, diet was advanced to a 
clears/toast and crackers diet and eventually to regular diet 
before discharge. Drain and urethral Foley catheter were removed 
without difficulty. The hospital course was relatively 
unremarkable. The patient was discharged in stable condition, 
eating well, ambulating independently, voiding without 
difficulty, and with pain control on oral analgesics. On exam, 
incision was clean, dry, and intact, with no evidence of 
hematoma collection or infection. The patient was given explicit 
instructions to follow-up in clinic in four weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Carvedilol 3.125 mg PO BID 
3. HydrALAZINE 25 mg PO Q8H 
4. Atorvastatin 40 mg PO QPM 
5. Torsemide 40 mg PO DAILY 
6. Spironolactone 12.5 mg PO DAILY 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO TID 
8. Omeprazole 40 mg PO BID 
9. Aspirin 81 mg PO DAILY 
10. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Cephalexin 500 mg PO Q8H Duration: 5 Days 
Medication was renal dosed. 
RX *cephalexin [Keflex] 500 mg ONE capsule(s) by mouth Q8hrs 
Disp #*15 Capsule Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ONE tablet(s) by mouth Q4hrs Disp #*30 Tablet 
Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Carvedilol 3.125 mg PO BID  
8.  HydrALAZINE 25 mg PO Q8H  
9.  Isosorbide Mononitrate (Extended Release) 30 mg PO TID  
10.  Losartan Potassium 100 mg PO DAILY  
11.  Omeprazole 40 mg PO BID  
12.  Spironolactone 12.5 mg PO DAILY  
13.  Tamsulosin 0.4 mg PO QHS  
14.  Torsemide 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left renal cell carcinoma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

-Please also refer to the provided “handout” that details 
instructions and expectations for your post-operative phase as 
made available by Dr. ___ office.

-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ reduce the strain/pressure on your abdomen and incision 
sites; remember to “log roll” onto your side and then use your 
hands to push yourself upright while taking advantage of the 
momentum of putting your legs/feet to the ground.

--There may be bandage strips called “steristrips” which have 
been applied to reinforce wound closure.  Allow these bandage 
strips to fall off on their own over time but PLEASE REMOVE ANY 
REMAINING GAUZE DRESSINGS WITHIN 2 DAYS OF DISCHARGE. You may 
get the steristrips wet.

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___. 


-Max daily Tylenol (acetaminophen) dose is 3 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Call your Urologist's office to schedule/confirm your follow-up 
appointment in 4 weeks AND if you have any questions.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
“couch potato”

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___. 
REPLACE the Tylenol with this narcotic pain medication if 
additional pain control is needed..

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not lift anything heavier than a phone book (10 pounds) or 
drive until you are seen by your Urologist in follow-up and/or 
as directed in the “handout”

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool-softener, NOT a laxative

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

 
Followup Instructions:
___